US05594023
A) 5-Ethoxy-1,3-dihydro-3-phenylindol-2-one
This compound is prepared according to the procedure described in step B of Preparation 66 from N-4-ethoxyphenyl-DL-mandelamide (138° C.), itself obtained according to the procedure described in step A of Preparation 2 from 4-ethoxyaniline and DL-mandelic acid. This gives the expected product. M.p.=125°-130° C.

reactant | N-4-ethoxyphenyl-DL-mandelamide | C(C)OC1=CC=C(C=C1)NC(C(O)C1=CC=CC=C1)=O | C16H17NO3
reactant | 4-ethoxyaniline | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | DL-mandelic acid | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
product | 5-Ethoxy-1,3-dihydro-3-phenylindol-2-one | C(C)OC=1C=C2C(C(NC2=CC1)=O)C1=CC=CC=C1 | C16H15NO2
